US09428528B2
Step 2 Preparation of tert-butyl 2-(5-bromopyridin-2-yl)propan-2-ylcarbamate
To a solution of 2-(5-bromopyridin-2-yl)propan-2-amine (800 mg, 3.7 mmol) in CH2Cl2 (25 mL) is added di-tert-butyl dicarbonate (830 mg, 3.7 mmol). The reaction is stirred at room temperature for 18 hours. Contents are diluted with NaHCO3 (50 mL) and extracted with CH2Cl2 (50 mL). The organic phase is dried (Na2SO4) and concentrated under vacuum. The crude material is chromatographed eluting from 100% hexanes to 35:65 ethylacetate:hexanes to afford the title compound (635 mg): m/z (CI) M+H 315+317.

reactant | 2-(5-bromopyridin-2-yl)propan-2-amine | 3.7 mmol, 800 mg | BrC=1C=CC(=NC1)C(C)(C)N | C8H11BrN2
reactant | di-tert-butyl dicarbonate | 3.7 mmol, 830 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | tert-butyl 2-(5-bromopyridin-2-yl)propan-2-ylcarbamate | 635 mg | BrC=1C=CC(=NC1)C(C)(C)NC(OC(C)(C)C)=O | C13H19BrN2O2
